US08895313B2
4-(3,3,3-Trifluoropropoxy)-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide
A mixture of 4-(3,3,3-trifluoropropoxy)benzoic acid (0.32 g, 1.39 mmol) and thionyl chloride (0.33 g, 2.78 mmol) in chloroform (5 ml) was heated under reflux for 5 h. The reaction mixture was cooled to room temperature and the excess reagent and solvent was removed under reduced pressure to give the crude acid chloride. The amide was prepared as described in the Amide Coupling section using the crude acid chloride and 2-(4-aminophenyl)-6-methoxybenzothiazole (0.36 g, 1.39 mmol) in dry pyridine (10 ml) to give the title compound (0.59 g, 90%) as a pale yellow solid after work-up.

reactant | 4-(3,3,3-trifluoropropoxy)benzoic acid | 1.39 mmol, 0.32 g | FC(CCOC1=CC=C(C(=O)O)C=C1)(F)F | C10H9F3O3
reactant | thionyl chloride | 2.78 mmol, 0.33 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-aminophenyl)-6-methoxybenzothiazole | 1.39 mmol, 0.36 g | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C14H12N2OS
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-(3,3,3-Trifluoropropoxy)-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide | 0.59 g, 90% | FC(CCOC1=CC=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=C1)(F)F | C24H19F3N2O3S
